### PR TITLE
[Merged by Bors] - chore: cleanup typo in `filter_upwards`

### PR DESCRIPTION
**Pull request by sgouezel**
mathport was forgetting a space in `filter_upwards [...]with` instead of `filter_upwards [...] with`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/UniformLimitsDeriv.lean [hunk 1]
```diff
@@ -544,7 +544,7 @@ theorem hasDerivAt_of_tendsto_locally_uniformly_on' [NeBot l] {s : Set 𝕜} (hs
     (hf : ∀ᶠ n in l, DifferentiableOn 𝕜 (f n) s)
     (hfg : ∀ x ∈ s, Tendsto (fun n => f n x) l (𝓝 (g x))) (hx : x ∈ s) : HasDerivAt g (g' x) x := by
   refine' hasDerivAt_of_tendstoLocallyUniformlyOn hs hf' _ hfg hx
-  filter_upwards [hf]with n h z hz using((h z hz).differentiableAt (hs.mem_nhds hz)).hasDerivAt
+  filter_upwards [hf] with n h z hz using((h z hz).differentiableAt (hs.mem_nhds hz)).hasDerivAt
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/UniformLimitsDeriv.lean:547]:
```suggestion
  filter_upwards [hf] with n h z hz using ((h z hz).differentiableAt (hs.mem_nhds hz)).hasDerivAt
```

File: Mathlib/Topology/GDelta.lean [hunk 2]
```diff
@@ -193,7 +193,7 @@ theorem isGδ_setOf_continuousAt [UniformSpace Y] [IsCountablyGenerated (uniform
     setOf_forall, id]
   refine' isGδ_iInter fun k => IsOpen.isGδ <| isOpen_iff_mem_nhds.2 fun x => _
   rintro ⟨s, ⟨hsx, hso⟩, hsU⟩
-  filter_upwards [IsOpen.mem_nhds hso hsx]with _ hy using⟨s, ⟨hy, hso⟩, hsU⟩
+  filter_upwards [IsOpen.mem_nhds hso hsx] with _ hy using⟨s, ⟨hy, hso⟩, hsU⟩
```
Comment (eric-wieser) [inline Mathlib/Topology/GDelta.lean:196]:
```suggestion
  filter_upwards [IsOpen.mem_nhds hso hsx] with _ hy using ⟨s, ⟨hy, hso⟩, hsU⟩
```

**Comment by fpvandoorn** [comment]
bors merge
